US08242104B2
To a solution of trans-racemic-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (180 mg, 0.36 mmol) in DCM (1 mL) and methanol (0.6 mL) was added 4M HCl in dioxane (1.6 mL) slowly and the reaction mixture stirred at RT for 2.5 hr before being concentrated in vacuo. The resultant residue was triturated in diethyl ether to give 4-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)piperidin-3-ol which was resolved to give the (3R,4R) enantiomer 303 as a white solid (172 mg, quantitative). LCMS: RT=2.41 min, [M+H]+ 395. 1H NMR 400 MHz (DMSO-d6) δ: 9.30 (1H, br, s), 9.10 (1H, br, s), 8.36 (1H, d, J=8.28 Hz), 8.10 (1H, br, s), 8.06 (1H, s), 7.04 (1H, d, J=8.38 Hz), 6.91 (1H, s), 5.87 (1H, m), 4.53 (4H, d, J=8.12 Hz), 3.90 (1H, br, m), 3.25 (2H, m), 2.78 (1H, m), 2.52 (2H, m), 1.80 (2H, m), 1.50 (1H, d, J=6.58 Hz)

reactant | trans-racemic-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.36 mmol, 180 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)O | C26H34N6O4
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.6 mL | CO | CH4O
solvent | dioxane | 1.6 mL | O1CCOCC1 | C4H8O2
product | 4-(2-(1-isopropyl-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepin-9-yl)piperidin-3-ol | C(C)(C)N1N=CN=C1C=1N=C2N(CCOC3=C2C=CC(=C3)C3C(CNCC3)O)C1 | C21H26N6O2
